US06310203B1
a) 6-(Imidazol-1-yl)-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine
Imidazole (500 mg, 74 mmol) was added to a stirred mixture of sodium hydride (300 mg of a 60% dispersion in oil, 75 mmol) and dimethylformamide (20 ml), at room temperature under nitrogen. After 0.75 h, 6-bromo-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine (400 mg 14.6 mmol) prepared following the procedure given for Example 11 part a in dimethylformamide (5 ml) was added. The mixture was heated at 80° C. for 24 h then in a sealed tube at 120° C. for 4 h. The solvent was evaporated in vacuo and the residue partitioned between water and ethyl acetate. The aqueous phase was separated and extracted with ethyl acetate (×3). The combined extracts were dried (MgSO4), and evaporated in vacuo and the residue flash chromatographed on silica gel, eluting with 5% methanol/dichloromethane to give the title-compound (280 mg, 73%), 1H NMR (250 MHz, CDCl3), δ 1.5-1.8 (6H, m, 3 of CH2), 3.58 (1H, m, CH2O), 3.93 (1H, m, CH2O), 4.66 (1H, d, J=14.1 Hz, CH2O), 4.82 (1H, d, CH), 4.90 (1H, d, J=14.1 Hz, CH2O), 7.19 (1H, br s, Ar—H), 7.24 (1H, d, J=8.2 Hz, Ar—H), 7.43 (1H, dd, J=7.6 Hz and 7.1 Hz, Ar—H), 7.64 (H, t, J=1.2 Hz, Ar—H), 7.83 (1H, t, J=7.9 Hz, Ar—H), 8.35 (1H, s, Ar—H); MS (ES+) m/e 260 [MH]+.

reactant | Imidazole | 74 mmol, 500 mg | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | [H-].[Na+]
reactant | 6-bromo-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine | 14.6 mmol, 400 mg | BrC1=CC=CC(=N1)COC1OCCCC1 | C11H14BrNO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(Imidazol-1-yl)-2-[(tetrahydropyran-2-yl)oxymethyl]pyridine | 280 mg, 73% | N1(C=NC=C1)C1=CC=CC(=N1)COC1OCCCC1 | C14H17N3O2
